US07414076B2
Preparation of 3-[4-(4-fluorophenyl)piperazin-1-yl]-1-propanesulfonic acid (Compound P)
To a solution of 1-(4-fluorophenyl)piperazine (2.0 g, 11.1 mmol) in acetone (20 mL) was added 1,3-propane sultone (1.46 g, 11.7 mmol). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×25 mL) and dried in vacuo. This allowed the isolation of compound P, 2.62 g (78%).

reactant | 1-(4-fluorophenyl)piperazine | 11.1 mmol, 2.0 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 1,3-propane sultone | 11.7 mmol, 1.46 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-[4-(4-fluorophenyl)piperazin-1-yl]-1-propanesulfonic acid | FC1=CC=C(C=C1)N1CCN(CC1)CCCS(=O)(=O)O | C13H19FN2O3S
